US07485640B2
A mixture of 4-bromo-2-chlorobenzonitrile (2.2 g, 10 mmol) and 2-fluorobenzeneboronic acid (1.82 g, 13 mmol) in tetrahydrofuran (30 ml) was treated with 2M sodium carbonate (13 ml) then degassed with nitrogen for 10 min. Tetrakis(triphenylphosphine)palladium(0) (0.58 g, 0.5 mmol) was added and this mixture was heated under reflux for 12 h. The resulting mixture was partitioned between dichloromethane and water. The organics were washed with water, brine, dried over anhydrous magnesium sulphate, filtered and concentrated in vacuo. Purification of the residue by chromatography on silica gel eluting with isohexane on a gradient of ethyl acetate (5-15%) gave 3-chloro-2′-fluorobiphenyl-4-carbonitrile as a white solid (2.3 g, 99%): δH (400 MHz, CDCl3) 7.17-7.57 (5H, m), 7.64-7.75 (2H, m).

reactant | 4-bromo-2-chlorobenzonitrile | 10 mmol, 2.2 g | BrC1=CC(=C(C#N)C=C1)Cl | C7H3BrClN
reactant | 2-fluorobenzeneboronic acid | 13 mmol, 1.82 g | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | sodium carbonate | 2M, 13 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.5 mmol, 0.58 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-chloro-2′-fluorobiphenyl-4-carbonitrile | 2.3 g, 99% | ClC=1C=C(C=CC1C#N)C1=C(C=CC=C1)F | C13H7ClFN
